US08937183B2
(4-(((2-cyanobenzo[d]thiazol-6-yl)oxy)methyl)phenyl)boronic acid (PBI 4452)
To a solution of 6-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)benzo[d]thiazole-2-carbonitrile (PBI 4472) (0.26 g, 0.66 mmol) in acetone (40 ml), a suspension of sodium periodate (0.43 g, 1.99 mmol), ammonium acetate (0.11 g, 1.33 mmol) in water (40 ml) was added at room temperature. The thick suspension was allowed to stir at room temperature for 18 hours. All solvent was evaporated, and the residue was dissolved in DMF. The suspension was centrifuged, and the clean solution was purified by prep-HPLC with acetonitrile/10% ammonium acetate to give the product as a white crystal (0.15 g, 72%). 1H NMR (300 MHz, DMSO, δ): 8.15 (d, J=9.0 Hz, 1H), 8.04 (s, 2H), 7.97 (d, J=3.0 Hz, 1H), 7.80 (d, J=9.0 Hz, 2H), 7.41 (m, 3H), 5.23 (s, 2H); MS (ESI) m/z 311.1.

reactant | 6-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)benzo[d]thiazole-2-carbonitrile | 0.66 mmol, 0.26 g | CC1(OB(OC1(C)C)C1=CC=C(COC2=CC3=C(N=C(S3)C#N)C=C2)C=C1)C | C21H21BN2O3S
reactant | sodium periodate | 1.99 mmol, 0.43 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 1.33 mmol, 0.11 g | C(C)(=O)[O-].[NH4+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | (4-(((2-cyanobenzo[d]thiazol-6-yl)oxy)methyl)phenyl)boronic acid | 0.15 g, 72% | C(#N)C=1SC2=C(N1)C=CC(=C2)OCC2=CC=C(C=C2)B(O)O | C15H11BN2O3S
